US05407897
Preparation of 3-(2,4-Dichlorophenoxy)-1-propanol
A solution of 3-bromopropanol (53.86 g, 0.368 mol) in isopropanol is added dropwise to a mixture of 2,4-dichlorophenol (50 g, 0.307 mol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (70.05 g, 0.406 mol) in isopropanol at reflux. The reaction mixture is heated at reflux for 3 hours and concentrated in vacuo to obtain a residue. The residue is dissolved in methylene chloride and the organic solution is washed sequentially with 0.5N sodium hydroxide solution, 1M hydrochloric acid and brine, dried over MgSO4 and concentrated in vacuo to obtain an oil which solidifies to give the title product as a white solid (71.9 g, mp 53°-55° C.).

reactant | 3-bromopropanol | 0.368 mol, 53.86 g | BrCCCO | C3H7BrO
reactant | 2,4-dichlorophenol | 0.307 mol, 50 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.406 mol, 70.05 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2,4-Dichlorophenoxy)-1-propanol | 71.9 g | ClC1=C(OCCCO)C=CC(=C1)Cl | C9H10Cl2O2
